US07579351B2
7-(Piperidin-4-yloxy)-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one
The solution of 0.45 g (1.17 mmol) 4-(1-oxo-1,2,3,4-tetrahydro-2,4a,5-triaza-fluoren-7-yloxy)-piperidine-1-carboxylic acid tert-butyl ester in 10 mL dichloromethane was cooled to 0° C., 5 mL (7.4 g, 65.3 mmol) trifluoroacetic acid were added and the cooling bath was removed. After 1 h the volatile components were removed at a rotary evaporator, the residue was dissolved in dichloromethane and was washed with 1M aqueous sodium hydroxide solution and brine. The organic layer was dried over magnesium sulfate, filtered and evaporated to give 140 mg (42%) of the desired product as a white solid.

reactant | 4-(1-oxo-1,2,3,4-tetrahydro-2,4a,5-triaza-fluoren-7-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 1.17 mmol, 0.45 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CN=C2N3CCNC(C3=CC2=C1)=O | C20H26N4O4
reactant | trifluoroacetic acid | 65.3 mmol, 5 mL, 7.4 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 7-(Piperidin-4-yloxy)-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | 140 mg, 42% | N1CCC(CC1)OC1=CN=C2N3CCNC(C3=CC2=C1)=O | C15H18N4O2
